US04489075
A solution of lithium diisopropylamide [made from n-BuLi (13.3 cm3) and diisopropylamine (2.8 cm3) in T.H.F. (10 cm3)] was added at -70° to a stirred solution of 4-ethylpyridine (2.0 g) in T.H.F. (10 cm3) under nitrogen. After 10 minutes the red solution was treated with ethylene oxide (1 cm3) giving an immediate suspension. After warming to room temperature, water (10 cm3) was added and the phases were separated. The aqueous phase was extracted with chloroform (2×20 cm3) and the combined organic extracts were dried (MgSO4) and evaporated in vacuo. Chromatography on silica (Merck 60.9385) eluting with methanol: ethyl acetate, 3:20, gave 3-(4-pyridyl)-butan-1-ol as an oil.

reactant | lithium diisopropylamide | 13.3 cm3 | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-ethylpyridine | 2.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | ethylene oxide | 1 cm3 | C1CO1 | C2H4O
solvent | water | 10 cm3 | O | H2O
product | 3-(4-pyridyl)-butan-1-ol | N1=CC=C(C=C1)C(CCO)C | C9H13NO
